US07786114B2
The product is prepared by following the procedure described in example 34, stage (j), starting with 0.1 g of 2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-carbaldehyde and 0.209 cm3 of 4-(4-methylpiperazino)benzylamine instead of the cyclopropylamine used in example 34, stage (j). After purification by flash-pack chromatography (SiO2, dichloromethane/methanol 90/10 by volume as eluents), 0.083 g of [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]-[4-(4-methylpiperazin-1-yl)-benzyl]amine is obtained with the following characteristics:

reactant | 2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-carbaldehyde | 0.1 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC1=C(N=CC=C1C=O)N2S(=O)(=O)C2=CC=C(C=C2)C)OC | C25H22N4O5S
reactant | 4-(4-methylpiperazino)benzylamine | 0.209 cm3 | CN1CCN(CC1)C1=CC=C(CN)C=C1 | C12H19N3
product | [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]-[4-(4-methylpiperazin-1-yl)-benzyl]amine | 0.083 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC=1C(=NC=CC1CNCC1=CC=C(C=C1)N1CCN(CC1)C)N2S(=O)(=O)C2=CC=C(C=C2)C)OC | C37H41N7O4S
